US07196080B2
To a chloroform (3 ml) solution of t-butyl 4-[2-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenoxy)ethyl]piperazine-1-carboxylate was added 0.427 ml of a 4M hydrogen chloride/ethyl acetate solution, followed by 2 days of stirring at room temperature. Further, 2 ml of chloroform and 1 ml of a 4M hydrogen chloride/ethyl acetate solution were added thereto, and the whole was stirred at room temperature overnight. Ethanol was added to the reaction mixture and crude crystals were collected by filtration and recrystallized from methanol to obtain 114 mg of 1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-4-[4-(2-piperazin-1-ylethoxy)phenyl]piperazine tetrahydrochloride hydrate as pale yellow crystals.

reactant | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
reactant | t-butyl 4-[2-(4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}phenoxy)ethyl]piperazine-1-carboxylate | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(OCCN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C35H45N5O6
reactant | hydrogen chloride ethyl acetate | 4M | Cl.C(C)(=O)OCC
reactant | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen chloride ethyl acetate | 4M | Cl.C(C)(=O)OCC
solvent | Ethanol | C(C)O | C2H6O
product | 1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-4-[4-(2-piperazin-1-ylethoxy)phenyl]piperazine tetrahydrochloride hydrate | 114 mg | O.Cl.Cl.Cl.Cl.COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)OCCN1CCNCC1 | InChI=1S/C30H37N5O4.4ClH.H2O/c1-37-28-11-6-23(22-29(28)38-2)26-4-3-5-27(32-26)30(36)35-18-16-34(17-19-35)24-7-9-25(10-8-24)39-21-20-33-14-12-31-13-15-33;;;;;/h3-11,22,31H,12-21H2,1-2H3;4*1H;1H2
